US06518315B1
1. Preparation of 4-benzyloxy-3-methoxycinnamaldehyde
4-Hydroxy-3-methoxycinnamaldehyde (0.6 g) was added to the mixture of benzyl chloride (1 mL), K2CO3 (1 g), and NaI (1 g) in acetone (20 mL). The resulting mixture was stirred at room temperature for 24 hrs. The solid were removed by filtration and washed with acetone. After evaporation of solvent, the crude product was purified by gradient chromatography to give a yellowish solid. Yield 85%.

reactant | 4-Hydroxy-3-methoxycinnamaldehyde | 0.6 g | OC1=C(C=C(C=CC=O)C=C1)OC | C10H10O3
reactant | benzyl chloride | 1 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 1 g | [Na+].[I-]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-benzyloxy-3-methoxycinnamaldehyde | Yield 85% | C(C1=CC=CC=C1)OC1=C(C=C(C=CC=O)C=C1)OC | C17H16O3
